US05169843
Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate (Ic3)
Acylation of diphenylmethyl 7-amino-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate (287 mg, 0.569 mmol) with 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione (204 mg, 0.683 mmol), according to Example 13, afforded the title compound (373 mg, 93% yield) as a bright yellow solid.

reactant | diphenylmethyl 7-amino-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate | 0.569 mmol, 287 mg | NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OC(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O6S
reactant | 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione | 0.683 mmol, 204 mg | NC=1SC=C(N1)/C(/C(=O)N1N=NN(C1=S)C)=N/OC | C8H9N7O2S2
product | Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate | 373 mg, 93% yield | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OC(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C33H29N5O8S2
